US04659718
A solution of butyl lithium in hexane (2.7M, 53 ml) was added to a stirred suspension of 5-methyltetrazole (6.0 g) in dry tetrahydrofuran (250 ml) at 0° under nitrogen. A solution of methyl 4-fluoro-2-methylaminobenzoate (4.36 g) in dry tetrahydrofuran (20 ml) was added during 10 minutes. The mixture was stirred for 17 hours at room temperature and then for 3 hours at 40° to 70°. The mixture was cooled to room temperature and water (200 ml) was added. The mixture was neutralised with dilute aqueous hydrochloric acid and extracted with dichloromethane (3×100 ml). The combined extracts were dried and evaporated under reduced pressure. The residue was crystallised from industrial methylated spirit to give the novel compound 1-(4-fluoro-2-methylaminophenyl)-2-(1H-tetrazol-5-yl)ethanone, m.p. 214°-6°.

reactant | butyl lithium | C(CCC)[Li]
reactant | 5-methyltetrazole | 6.0 g | CC1=NN=NN1 | C2H4N4
reactant | methyl 4-fluoro-2-methylaminobenzoate | 4.36 g | FC1=CC(=C(C(=O)OC)C=C1)NC | C9H10FNO2
reactant | hydrochloric acid | Cl | ClH
solvent | hexane | 2.7M, 53 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 1-(4-fluoro-2-methylaminophenyl)-2-(1H-tetrazol-5-yl)ethanone | FC1=CC(=C(C=C1)C(CC1=NN=NN1)=O)NC | C10H10FN5O
